US06586617B1
Synthesis of 4′-Chloro-N-ethyl-2′-nitro-p-toluenesulfonanilide (Compound No. 289)
To a mixture of 4′-chloro-2′-nitro-p-toluenesulfonanilide sodium salt (1046 g (3.00 mol)) and DMF (1100 ml), heated in an oil bath kept at 100° C., was added diethyl sulfate (733.8 g (4.50 mol)) over a period of one hour. The resulting mixture was further stirred for 1.5 hours at the same temperature to complete the reaction, and then left to cool to room temperature. A 1.5% aqueous sodium hydroxide solution was added and the mixture was stirred for one hour. The resulting solid was then filtered, washed with water, dried and recrystallized from 1450 ml of ethyl acetate to give 858 g (81%) of the title compound as pale yellow crystals.

reactant | 4′-chloro-2′-nitro-p-toluenesulfonanilide sodium salt | 3.00 mol, 1046 g | [Na].ClC1=CC(=C(NS(=O)(=O)C2=CC=C(C=C2)C)C=C1)[N+](=O)[O-]
reactant | diethyl sulfate | 4.50 mol, 733.8 g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 1100 ml | CN(C)C=O | C3H7NO
product | 4′-Chloro-N-ethyl-2′-nitro-p-toluenesulfonanilide | 858 g, 81% | ClC1=CC(=C(N(S(=O)(=O)C2=CC=C(C=C2)C)CC)C=C1)[N+](=O)[O-] | C15H15ClN2O4S
